US06313162B1
(b) Methyl 2-hydroxy-4-[3-hydroxy-3-(8,8-dimethyl-5,6,7,8-tetrahydro-2-naphthyl)-1-propynyl]benzoate
7.95 g (22 mol) of methyl 2-hydroxy-4-[3-oxo-3-(8,8-dimethyl-5,6,7,8-tetrahydro-2-naphthyl)-1-propynyl]benzoate, 150 ml of THF and 20 ml of methanol are introduced into a round-bottomed flask. 660 mg (17.4 mmol) of sodium borohydride are added portionwise and the mixture is stirred at room temperature for two hours. The reaction medium is poured into ice-water, neutralized with hydrochloric acid and extracted with ethyl acetate, and the organic phase is separated out after settling has taken place, washed with water, dried over magnesium sulphate and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a mixture of heptane and ethyl acetate (80/20). After evaporation of the solvents, 3.8 g (47.5%) of the expected product are collected in the form of an oil.

reactant | methyl 2-hydroxy-4-[3-oxo-3-(8,8-dimethyl-5,6,7,8-tetrahydro-2-naphthyl)-1-propynyl]benzoate | 22 mol, 7.95 g | OC1=C(C(=O)OC)C=CC(=C1)C#CC(C1=CC=2C(CCCC2C=C1)(C)C)=O | C23H22O4
reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | sodium borohydride | 17.4 mmol, 660 mg | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | Methyl 2-hydroxy-4-[3-hydroxy-3-(8,8-dimethyl-5,6,7,8-tetrahydro-2-naphthyl)-1-propynyl]benzoate | OC1=C(C(=O)OC)C=CC(=C1)C#CC(C1=CC=2C(CCCC2C=C1)(C)C)O | C23H24O4
